US06727264B1
3-(2,6-DICHLOROPHENYL)-N-(5-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PENTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(5-aminopentyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride. ESMS m/e: 585.2 (M+H)+.

reactant | N-{3-[1-(5-aminopentyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C20H33N3O
reactant | 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)Cl)C | C11H6Cl3NO2
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2,6-DICHLOROPHENYL)-N-(5-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PENTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)NCCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C31H38Cl2N4O3
